US07160906B2
6-{[3-(2-Methylbenzyloxy)-5-(5-methylisoxazol-3-ylmethoxy)benzoyl]amino}-3-pyridinecarboxylic Acid (Route 3)
Methyl 6-{[3-(2-methylbenzyloxy)-5-(5-methylisoxazol-3-ylmethoxy)benzoyl]amino}-3-pyridinecarboxylate (98 mg, 0.201 mM) was dissolved in THF (4 ml) and a solution of NaOH (24 mg, 0.603 mM) in water (0.24 ml) was added. Water (4 ml) was added to the reaction mixture until it became monophasic. The reaction was stirred for 16 hours at ambient temperature and was then acidified to pH=1 with 1N aqueous HCl. The white solid which precipitated from the mixture was isolated by filtration and was dried ‘in vacuo’ to give the title compound as a white solid (67 mg, 70% yield); H1 NMR δ (d6-DMSO) 2.30 (3H s) 2.39 (3H s) 5.16 (2H s) 5.22 (2H s) 6.33 (1H s) 6.91 (1H s) 7.11–7.42 (6H m) 8.30 (2H s) 8.87 (1H s). MS [MH]+ 474

reactant | Methyl 6-{[3-(2-methylbenzyloxy)-5-(5-methylisoxazol-3-ylmethoxy)benzoyl]amino}-3-pyridinecarboxylate | 0.201 mM, 98 mg | CC1=C(COC=2C=C(C(=O)NC3=CC=C(C=N3)C(=O)OC)C=C(C2)OCC2=NOC(=C2)C)C=CC=C1 | C27H25N3O6
reactant | NaOH | 0.603 mM, 24 mg | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 0.24 ml | O | H2O
solvent | Water | 4 ml | O | H2O
product | 6-{[3-(2-Methylbenzyloxy)-5-(5-methylisoxazol-3-ylmethoxy)benzoyl]amino}-3-pyridinecarboxylic Acid | 67 mg, 70% yield | CC1=C(COC=2C=C(C(=O)NC3=CC=C(C=N3)C(=O)O)C=C(C2)OCC2=NOC(=C2)C)C=CC=C1 | C26H23N3O6
